US08957080B2
Synthesis of (R)-2-(2-((4-amino-3-(4-(2,6-difluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-3-cyclopropylacrylonitrile
Into a 10 mL sealed tube, was placed a solution of 3-[(2R)-2-([4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile (100 mg, 0.20 mmol, 1.00 equiv) in methanol (3 mL), cyclopropanecarbaldehyde (1 mL), and piperidine (1 mL). The resulting solution was stirred for 12 h at 25° C. and then concentrated under vacuum. The resulting solution was diluted with 10 mL of dichloromethane, washed with saturated aqueous NH4Cl, water and brine. The organics were dried over anhydrous sodium sulfate and concentrated under vacuum and the residue was purified via column chromatograpy using dichloromethane/methanol (20/1) to give 26 mg (23%) of the title compound as a white solid. LC-MS: (ES, m/z): 542 [M+H].

reactant | 3-[(2R)-2-([4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile | 0.20 mmol, 100 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2F)F)C[C@@H]2N(CCC2)C(CC#N)=O | C25H21F2N7O2
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
solvent | methanol | 3 mL | CO | CH4O
solvent | cyclopropanecarbaldehyde | 1 mL | C1(CC1)C=O | C4H6O
product | (R)-2-(2-((4-amino-3-(4-(2,6-difluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidine-1-carbonyl)-3-cyclopropylacrylonitrile | 26 mg, 23% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2F)F)C[C@@H]2N(CCC2)C(=O)C(C#N)=CC2CC2 | C29H25F2N7O2
